US05670564
Phenyl-3-chlorobenzoate is prepared by reacting 3-chlorobenzoyl chloride with phenol in toluene with some pyridine (1 mol equivalent per acid chloride) to trap the HCl that evolves. After aqueous extraction of the pyridinium salt and any excess starting materials, the product is crystallized from the toluene solution.

reactant | 3-chlorobenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | pyridine | 1 mol | N1=CC=CC=C1 | C5H5N
reactant | HCl | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | Phenyl-3-chlorobenzoate | C1(=CC=CC=C1)OC(C1=CC(=CC=C1)Cl)=O | C13H9ClO2
